US07838675B2
i) 2-Amino-4-methyl-1,3-thiazole-5-sulfonamide
A suspension of N-[5-(aminosulfonyl)-4-methyl-1,3-thiazol-2-yl]acetamide (the product from Example 53, step ii) (0.44 g) in hydrazine hydrate (1.5 ml) was stirred at room temperature for 4 h. The mixture was diluted with H2O and extracted with EtOAc (×4). The combined organic extracts were dried (MgSO4), filtered and evaporated to give the subtitle compound as an off-white solid. Yield 0.23 g.

reactant | N-[5-(aminosulfonyl)-4-methyl-1,3-thiazol-2-yl]acetamide | NS(=O)(=O)C1=C(N=C(S1)NC(C)=O)C | C6H9N3O3S2
solvent | hydrazine hydrate | 1.5 ml | O.NN
solvent | H2O | O | H2O
product | 2-Amino-4-methyl-1,3-thiazole-5-sulfonamide | NC=1SC(=C(N1)C)S(=O)(=O)N | C4H7N3O2S2
